*BZG05C5V6 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*5.6V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG05C5V6 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  5.095
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=494P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=3.41E-21 RS=0.108 N=0.44)
.ENDS